US08471004B2
Osmium tetroxide solution (2.5% in tert-butyl alcohol, 0.49 mL, 77 μmol) was added at 0° C. to a solution of (S)-3-allyloxy-2-tert-butoxycarbonylamino-propionic acid methyl ester (Org. Lett. 2007, 9, 3061; 1.00 g, 3.86 mmol) and 50% aq. 4-methylmorpholine-4-oxide solution (1.81 g, 7.71 mmol) in THF/water 2:1 (8 mL), then after 1 h sodium periodate (2.47 g, 11.6 mmol) was added. The ice bath was removed, then after 2 h the reaction mixture was treated with 10% aq. sodium sulfite solution (5.2 mL) and stirred for an additional 3 h, then poured upon water and extracted with EtOAc. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and evaporated. The residue [(3S,5R)-3-hydroxy-5-[((S)-1-methoxycarbonyl-ethylamino)-methyl]-morpholine-4-carboxylic acid tert-butyl ester] was dissolved in MeOH (5 mL), treated with toluene 4-sulfonic acid monohydrate (66 mg, 0.39 mmol), stirred for 1 h at room temperature, and concentrated in vacuo. The residue was redissolved in EtOAc and washed with 1 M aq. sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate, filtered, and evaporated to afford crude (3S,5R)-3-methoxy-5-[((S)-1-methoxycarbonyl-ethylamino)-methyl]-morpholine-4-carboxylic acid tert-butyl ester (908 mg) as a brown oil. This was dissolved in DCM (10 mL), cooled to −78° C., then boron trifluoride etherate (928 mg, 6.54 mmol) and allyl trimethylsilane (560 mg, 4.90 mmol) were added, then after 2 h the reaction mixture was poured upon sat. aq. sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; heptane/EtOAc 70:30) afforded the title compound (601 mg, 55%). Colourless oil, MS: 308.1 (M+Na)+.

reactant | (S)-3-allyloxy-2-tert-butoxycarbonylamino-propionic acid methyl ester | 3.86 mmol, 1.00 g | COC([C@H](COCC=C)NC(=O)OC(C)(C)C)=O | C12H21NO5
reactant | 4-methylmorpholine-4-oxide solution | 7.71 mmol, 1.81 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium periodate | 11.6 mmol, 2.47 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | toluene 4-sulfonic acid monohydrate | 0.39 mmol, 66 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | THF water | 8 mL | C1CCOC1.O
catalyst | Osmium tetroxide | 77 μmol, 0.49 mL | [Os](=O)(=O)(=O)=O
product | (3S,5R)-3-methoxy-5-[((S)-1-methoxycarbonyl-ethylamino)-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 908 mg | C(C)(C)(C)OC(=O)N1[C@H](COC[C@H]1CN[C@@H](C)C(=O)OC)OC | C15H28N2O6
